US07423035B2
5-hydroxy-8-[1-hydroxy-2-(1-naphthalen-2-ylmethyl-cyclopropylamino)-ethyl]-4H-benzo[1,4]oxazin-3-one
Prepared according to general method 3 from 329 mg (1 mmol) 5-benzyloxy-8-(2,2-dihydroxy-acetyl)-4H-benzo[1,4]oxazin-3-one and 197 mg (1 mmol) 1-naphthalen-2-ylmethyl-cyclopropylamine. Yield: 20 mg (5%, trifluoroacetate); mass spectroscopy: [M+H]+=405.

reactant | 5-benzyloxy-8-(2,2-dihydroxy-acetyl)-4H-benzo[1,4]oxazin-3-one | 1 mmol, 329 mg | C(C1=CC=CC=C1)OC1=CC=C(C2=C1NC(CO2)=O)C(C(O)O)=O | C17H15NO6
reactant | 1-naphthalen-2-ylmethyl-cyclopropylamine | 1 mmol, 197 mg | C1=C(C=CC2=CC=CC=C12)CC1(CC1)N | C14H15N
reactant | trifluoroacetate | FC(C(=O)[O-])(F)F
product | 5-hydroxy-8-[1-hydroxy-2-(1-naphthalen-2-ylmethyl-cyclopropylamino)-ethyl]-4H-benzo[1,4]oxazin-3-one | OC1=CC=C(C2=C1NC(CO2)=O)C(CNC2(CC2)CC2=CC1=CC=CC=C1C=C2)O | C24H24N2O4
